US07923456B2
Method A, step 1: (3-Fluoro-4-nitro-phenyl)-trimethylsilane
4-Chloro-2-fluoronitrobenzene (97.2 g, 0.55 mol) was dissolved in xylenes (208 ml) and hexamethyldisilane (306 g, 2.78 mol) was added. Argon was bubbled through the mixture for 20 min, then Pd(PPh3)4 (16.2 g, 14 mmol) was added and the mixture was heated under continuous flow of argon at 150° C. for 1 hour. A balloon of argon was then fitted and the mixture was heated at 150° C. for a further 60 hours. After cooling the mixture was diluted with diethyl ether and filtered through a pad of silica. The filter cake was washed with further diethyl ether, and the combined filtrates were concentrated in vacuo. Purification of the resultant residue by flash chromatography (SiO2, 98:1:1 pentane:CH2Cl2:Et2O eluent) gave the title compound as an orange oil (76.7 g). Impure chromatography fractions were combined and concentrated, and then subjected to vacuum distillation (b.p. 110° C., 6 mbar) to give a further portion of the title compound as an orange oil (7.2 g, overall 83.9 g, 71%). 1H NMR δ (DMSO-d6): 0.30 (9H, s), 7.56 (1H, d, J=8.02 Hz), 7.67 (1H, dd, J=11.49, 1.14 Hz), 8.10 (1H, t, J=7.66 Hz).

reactant | 4-Chloro-2-fluoronitrobenzene | 0.55 mol, 97.2 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3ClFNO2
reactant | hexamethyldisilane | 2.78 mol, 306 g | C[Si]([Si](C)(C)C)(C)C | C6H18Si2
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | Pd(PPh3)4 | 14 mmol, 16.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (3-Fluoro-4-nitro-phenyl)-trimethylsilane | 76.7 g | FC=1C=C(C=CC1[N+](=O)[O-])[Si](C)(C)C | C9H12FNO2Si
